US06825200B1
5-Chloro-N-[(1S)-2-[[2-((2S)-2-methyl-4-phenyl-1-piperazinyl)-2-oxoethyl]amino]-2-oxo-1-(2-pyridylmethyl)ethyl]-1-benzofuran-2-carboxamide
A mixture of [[(2S)-2-[[(5-chloro-1-benzofuran-2-yl)carbonyl]amino]-3-(2-pyridyl)propanoyl]amino]acetic acid (150 mg), (S)-1-phenyl-3-methylpiperazine (79 mg), 1-hydroxy-benzotriazole (55 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (79 mg) in N,N-dimethylformamide (3 ml) was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate (15 ml), and washed successively with saturated aqueous sodium hydrogencarbonate solution, water, and brine. The organic layer was dried over magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol 10:1) to give the title compound as a colorless amorphous solid.

reactant | [[(2S)-2-[[(5-chloro-1-benzofuran-2-yl)carbonyl]amino]-3-(2-pyridyl)propanoyl]amino]acetic acid | 150 mg | ClC=1C=CC2=C(C=C(O2)C(=O)N[C@H](C(=O)NCC(=O)O)CC2=NC=CC=C2)C1 | C19H16ClN3O5
reactant | (S)-1-phenyl-3-methylpiperazine | 79 mg | C1(=CC=CC=C1)N1C[C@@H](NCC1)C | C11H16N2
reactant | 1-hydroxy-benzotriazole | 55 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 79 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-N-[(1S)-2-[[2-((2S)-2-methyl-4-phenyl-1-piperazinyl)-2-oxoethyl]amino]-2-oxo-1-(2-pyridylmethyl)ethyl]-1-benzofuran-2-carboxamide | ClC=1C=CC2=C(C=C(O2)C(=O)N[C@H](C(=O)NCC(=O)N2[C@H](CN(CC2)C2=CC=CC=C2)C)CC2=NC=CC=C2)C1 | C30H30ClN5O4
